US07253286B2
N-(4-{6-Cyano-7-[(2R)-2-hydroxy-3-piperidin-1-ylpropoxy]quinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea
After adding tetrahydrofuran (2.0 ml) and piperidine (0.20 ml) to N-(4-{6-cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea (110 mg), the mixture was heated at 60° C. for 3 hours. The reaction solution was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to obtain the title compound (80 mg) as light yellow crystals.

reactant | piperidine | 0.20 ml | N1CCCCC1 | C5H11N
reactant | N-(4-{6-cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea | 110 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C21H17ClN4O4
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | N-(4-{6-Cyano-7-[(2R)-2-hydroxy-3-piperidin-1-ylpropoxy]quinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea | 80 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H](CN1CCCCC1)O)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C26H28ClN5O4
